US05344843
A mixture of (Z)-alpha-oxo-4-[(3-phenyl-2-propenyl)oxy]benzeneacetic acid methyl ester (1 g) in methanol (15 mL) and 0.5N sodium hydroxide (10 mL) was treated as in Example 19. Extraction provided solids which were crystallized from diethyl ether-hexane to give 0.8 g of colorless (Z)-alpha-oxo-4-[(3-phenyl-2-propenyl)oxy]benzeneacetic acid, mp 103°-105° C.

reactant | (Z)-alpha-oxo-4-[(3-phenyl-2-propenyl)oxy]benzeneacetic acid methyl ester | 1 g | COC(C(C1=CC=C(C=C1)OC\C=C/C1=CC=CC=C1)=O)=O | C18H16O4
solvent | methanol | 15 mL | CO | CH4O
solvent | sodium hydroxide | 0.5N, 10 mL | [OH-].[Na+]
product | (Z)-alpha-oxo-4-[(3-phenyl-2-propenyl)oxy]benzeneacetic acid | 0.8 g | O=C(C(=O)O)C1=CC=C(C=C1)OC\C=C/C1=CC=CC=C1 | C17H14O4
